US20010020103A1
Sodium iodide (2.16 g) was dissolved in 16 mL of acetone, 2.00 g of 2,2-dimethyl-6-chloromethyl-1,3-dioxin-4-one diluted with 4 mL of acetone was added, and the mixture was stirred at room temperature for 2 hours. The insoluble matter was removed from the reaction mixture by filtration and the filtrate was concentrated. The residue was dissolved in 20 mL of chloroform, the insoluble matter was again filtered off and the filtrate was concentrated. The thus-obtained residue was purified by silica gel column chromatography (solvent: hexane/ethyl acetate=1/1 (volume ratio)) to give 2.65 g of 6-iodomethyl-2,2-dimethyl-4H-1,3-dioxin-4-one as a yellow liquid. The NMR spectrum of this compound is shown below.

reactant | Sodium iodide | 2.16 g | [I-].[Na+]
reactant | 2,2-dimethyl-6-chloromethyl-1,3-dioxin-4-one | 2.00 g | CC1(OC(=CC(O1)=O)CCl)C | C7H9ClO3
solvent | acetone | 16 mL | CC(=O)C | C3H6O
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | 6-iodomethyl-2,2-dimethyl-4H-1,3-dioxin-4-one | 2.65 g | ICC1=CC(OC(O1)(C)C)=O | C7H9IO3
